US06541505B1
N-[2-(3-Cyano-1H-indol-5-yl)ethyl]-4-[2-(4-methylpiperazin-1-yl)pyrimidin-4-yl]benzamide.
Using N-methyl-piperazine and N-[2-(3-Cyano-1H-indol-5-yl)-ethyl]-4-[2-chloro-pyrimidin-4-yl]-benzamide (reference example 1az) as substrates. MS (ion spray) m/z 466 (M+H)+.

reactant | N-methyl-piperazine | CN1CCNCC1 | C5H12N2
reactant | N-[2-(3-Cyano-1H-indol-5-yl)-ethyl]-4-[2-chloro-pyrimidin-4-yl]-benzamide | C(#N)C1=CNC2=CC=C(C=C12)CCNC(C1=CC=C(C=C1)C1=NC(=NC=C1)Cl)=O | C22H16ClN5O
product | N-[2-(3-Cyano-1H-indol-5-yl)ethyl]-4-[2-(4-methylpiperazin-1-yl)pyrimidin-4-yl]benzamide | C(#N)C1=CNC2=CC=C(C=C12)CCNC(C1=CC=C(C=C1)C1=NC(=NC=C1)N1CCN(CC1)C)=O | C27H27N7O
